US05045550
Phenyl lithium (1.8 M cyclohexane diethyl ether, 27.6 mL, 0.0497 mol) is slowly added to a stirring solution of 4-picoline (4.6 g, 0.0497 mol) in 50 mL of tetrahydrofuran under nitrogen. The solution is stirred for 20 minutes at room temperature and then cooled to 0° C. 2-(4-Chlorobutoxy)-3,4,5,6-2H-tetrahydropyran (6.4 g, 0.0332 mol) is slowly added to the reaction mixture and the mixture is stirred for 30 minutes at 0° C. The reaction mixture is refluxed for 12 hours, cooled, and 100 mL of 10% hydrochloric acid solution is added. The reaction mixture is stirred for another 12 hours and then made basic with a saturated solution of sodium bicarbonate and extracted with chloroform. The organic phase is dried (sodium sulfate) and evaporated in vacuo. The resulting residue is chromatographed on silica gel (ethyl acetate) to give 1.25 g of 5-(4-pyridinyl)-1-pentanol as a brown oil.

reactant | Phenyl lithium | 0.0497 mol, 1.8 M, 27.6 mL | C1(=CC=CC=C1)[Li]
reactant | 4-picoline | 0.0497 mol, 4.6 g | N1=CC=C(C=C1)C | C6H7N
reactant | hydrochloric acid | 100 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 5-(4-pyridinyl)-1-pentanol | 1.25 g | N1=CC=C(C=C1)CCCCCO | C10H15NO
